### PR TITLE
ring tactic

### PR DESCRIPTION
**Pull request by AurelienSaue**
Implemented `ring` for addition multiplication and exponentiation only.
Fixed `normNum` and added support for exponentiation

### CODE REVIEW

**Comment by digama0** [comment]
Don't forget to include documentation and author attributions from the original file! Author name lists should always be monotonic.

**Comment by AurelienSaue** [comment]
> Don't forget to include documentation and author attributions from the original file! Author name lists should always be monotonic.

Of course! Sorry I just added it

**Comment by PatrickMassot** [comment]
@AurelienSaue, Mario wrote "monotonic", not constant. You can still add your name.

**Comment by AurelienSaue** [comment]
> @AurelienSaue, Mario wrote "monotonic", not constant. You can still add your name.

How about the year? Should it be updated?

**Comment by digama0** [comment]
I think the usual convention is to leave the earliest year. Probably not how it's supposed to be done but it does give a sense of the age of the file and leads to less churn than updating all the years all the time.

File: Mathlib/Tactic/Ring.lean [hunk 1]
```diff
@@ -0,0 +1,490 @@
...
+open Expr in
+private def getAppFnAndArgsAux : Expr → Array Expr → Nat → Option (Name × Array Expr)
+  | app f a _,   as, i => getAppFnAndArgsAux f (as.set! i a) (i-1)
+  | const n _ _, as, i => some (n,as)
+  | _,           as, _ => none
+
+def Lean.Expr.getAppFnAndArgs (e : Expr) : Option (Name × Array Expr) :=
+  let dummy := mkSort levelZero
+  let nargs := e.getAppNumArgs
+  getAppFnAndArgsAux e (mkArray nargs dummy) (nargs-1)
```
Comment (gebner) [inline Mathlib/Tactic/Ring.lean:29]:
```suggestion
  e.withApp fun (fn, as) =>
    match fn with
    | const n _ _ => (n, as)
    | _ => none
```

File: Mathlib/Tactic/Ring.lean [hunk 2]
```diff
@@ -0,0 +1,490 @@
...
+
+      replaceMainGoal []
+    else
+      throwError "failed \n{← e₁'.pp}\n{← e₂'.pp}"
+  | _ => throwError "failed: not an equality"
+
+example (x y : ℕ) : x + y = y + x := by ring
+example (x y : ℕ) : x + y + y = 2 * y + x := by ring
+example (x y : ℕ) : x + id y = y + id x := by ring
+-- example {α} [CommRing α] (x y : α) : x + y + y - x = 2 * y := by ring
```
Comment (gebner) [inline Mathlib/Tactic/Ring.lean:442]: Some of these examples are commented out.  I assume that's because they don't work at the moment (but did in Lean 3)?  Is this because we don't have the type classes / types yet in mathlib4?  Or is there something else that's missing?

**Review by gebner — COMMENTED** [review]
Great job!  As Patrick said, please add your name to the file.

File: Mathlib/Tactic/Ring.lean (hunk 2 above)
Comment (AurelienSaue) [reply Mathlib/Tactic/Ring.lean:442]: All of them worked in Lean 3 yes (even though some used `ring_nf`). The missing features for them to work here are:

- Compatibility of `ring` with subtraction and division
- Defining ℚ, ℝ, fields and linear ordered fields

File: Mathlib/Tactic/Ring.lean (hunk 1 above)
Comment (AurelienSaue) [reply Mathlib/Tactic/Ring.lean:29]: Thank you I will just delete this whole function and use `withApp` which I did not know
